US09328099B2
1-[4-(Cyanomethyl)-1-(isopropylsulfonyl)piperidin-4-yl]-3-(phenylamino)-1H-pyrazole-4-carboxamide
To a suspension of 4-[4-carbamoyl-3-(phenylamino)-1H-pyrazol-1-yl]-4-(cyanomethyl)piperidinium trifluoroacetate (Intermediate #38-1) (30 mg, 0.068 mmol) in MeCN (0.50 mL) was added DIPEA (0.030 mL, 0.17 mmol) and DMAP (12 mg, 0.10 mmol). To this mixture was added isopropylsulfonyl chloride (0.008 mL, 0.1 mmol). The resulting mixture was allowed to stir at ambient temperature for 1 hour before it was diluted with DMSO (1.0 mL) and purified directly by reverse-phase preparative HPLC (using a gradient elution of 0-100% MeCN/water, with 0.1% v/v HCOOH modifier). Desired fractions were identified, combined and concentrated in vacuo to afford the title compound, Example #37-1. 1H NMR (600 MHz, DMSO-d6): δ 9.03 (s, 1H), 8.47 (s, 1H), 7.54 (br s, 1H), 7.48 (d, J=7.8 Hz, 2H), 7.21 (t, J=7.8 Hz, 2H), 7.15 (br s, 1H), 6.80 (t, J=7.8 Hz, 1H), 3.50-3.56 (m, 2H), 3.19 (s, 2H), 2.98-3.10 (m, 2H), 2.38-2.49 (m, 3H), 2.02-2.08 (m, 2H), 1.15 (d, J=6.6 Hz, 6H). LRMS (ESI) calc'd for C20H26N6O3S [M+H]+: 431. Found: 431.

reactant | 4-[4-carbamoyl-3-(phenylamino)-1H-pyrazol-1-yl]-4-(cyanomethyl)piperidinium trifluoroacetate | 0.068 mmol, 30 mg | FC(C(=O)[O-])(F)F.C(N)(=O)C=1C(=NN(C1)C1(CC[NH2+]CC1)CC#N)NC1=CC=CC=C1
reactant | DIPEA | 0.17 mmol, 0.030 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | isopropylsulfonyl chloride | 0.1 mmol, 0.008 mL | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | MeCN | 0.50 mL | CC#N | C2H3N
catalyst | DMAP | 0.10 mmol, 12 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
product | 1-[4-(Cyanomethyl)-1-(isopropylsulfonyl)piperidin-4-yl]-3-(phenylamino)-1H-pyrazole-4-carboxamide | C(#N)CC1(CCN(CC1)S(=O)(=O)C(C)C)N1N=C(C(=C1)C(=O)N)NC1=CC=CC=C1 | C20H26N6O3S
